US04965270
A solution of (S)-4-chloro-2,5-diformamido-6-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxyamino)pyrimidine (2.1 g, 6.08 mmol) in diethoxymethyl acetate (30 ml) was stirred at 120° C. for 3 h. The reaction was evaporated to dryness, the residue dissolved in methanol (40 ml) and 0.88 ammonia (1 ml) and stirred for 1.5 h. at 25° C. Evaporation and chromatography of the residue on silica eluting with ethyl acetate-hexane 1:1 gave (S)-6-chloro-9-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)-2-formamidopurine (1.3 g, 65%) as a white solid; m.p. 147°-8° C.; υmax (KBr) 3420, 3200, 1700, 1610, 1580, 1510, and 1440 cm-1 ; δH(CDCl3) 1.40(3H,S,CH3), 1.44(3H,S,CH3), 3.89(1H,m,CH2OCMe2), 4.16(1H,m,CH2OCMe2), 4.50(3H,m,CH+CH2ON), 8.23(1H,S,H- 8), 8.45(1H,br.d,J11.5 Hz,D2O exchangeable, NH) and 9.59(1H,d,J11.5 Hz,HCONH). Found C, 43.75; H, 4.29; N, 21.23%; M+ 327.0734; C12H14ClN5O4 requires C, 43.98; H, 4.31; N, 21.37%; M+ 327.0734.

reactant | (S)-4-chloro-2,5-diformamido-6-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxyamino)pyrimidine | 6.08 mmol, 2.1 g | ClC1=NC(=NC(=C1NC=O)NOC[C@H]1OC(OC1)(C)C)NC=O | C12H16ClN5O5
solvent | diethoxymethyl acetate | 30 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | (S)-6-chloro-9-(2,2-dimethyl-1,3-dioxolan-4-ylmethoxy)-2-formamidopurine | 1.3 g, 65% | ClC1=C2N=CN(C2=NC(=N1)NC=O)OC[C@H]1OC(OC1)(C)C | C12H14ClN5O4
